US06002008
A mixture of 249 mg (1 mmole) of 3-cyano-4-chloro-6,7-dimethoxy quinoline, 346 mg (2 mmoles) of 3-amino-5-bromo pyridine and 20 mg (about 0.1 mmole) of p-toluenesulfonic acid monohydrate in 5 ml of 2-methoxy ethanol was stirred and refluxed in an oil bath at 153° C. for 7 hours. On cooling overnight to room temperature, the solid was filtered and washed with ethanol, then with ether to give 287 mg (74.5%) of N-[4-[(5-bromo-3--pyridinyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile, which melted at 272-275° C. mass spectrum (electrospray, m/e) M+H=384.9, 386.8.

reactant | 3-cyano-4-chloro-6,7-dimethoxy quinoline | 1 mmole, 249 mg | C(#N)C=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C12H9ClN2O2
reactant | 3-amino-5-bromo pyridine | 2 mmoles, 346 mg | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | p-toluenesulfonic acid monohydrate | about 0.1 mmole, 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-methoxy ethanol | 5 ml | COCCO | C3H8O2
product | 4-[(5-bromo-3--pyridinyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile | BrC=1C=C(C=NC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C17H13BrN4O2
